US08030487B2
Synthesis of (5-Nitro-Pyrimidin-2-yl)-Phenyl-Amine (Intermediate 54)
A suspension of 5-nitro-pyrimidin-2-ylamine (0.10 g, 0.71 mmol), bromobenzene (0.15 g, 0.96 mmol), Pd(OAc)2 (13 mg, 0.057 mmol), Xantphos (67 mg, 0.12 mmol) and potassium tert-butoxide (0.22 g, 2.0 mmol) in DMF (3 mL) was sealed in a microwave reaction tube and irradiated with microwave at 140° C. for 15 min. After cooling to room temperature, the cap was removed and the resulting mixture filtered and the filtered solid washed with DCM. The filtrate was concentrated and the crude product used in the next step without further purification.

reactant | 5-nitro-pyrimidin-2-ylamine | 0.71 mmol, 0.10 g | [N+](=O)([O-])C=1C=NC(=NC1)N | C4H4N4O2
reactant | bromobenzene | 0.96 mmol, 0.15 g | BrC1=CC=CC=C1 | C6H5Br
reactant | Xantphos | 0.12 mmol, 67 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | potassium tert-butoxide | 2.0 mmol, 0.22 g | CC(C)([O-])C.[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 0.057 mmol, 13 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (5-Nitro-Pyrimidin-2-yl)-Phenyl-Amine | [N+](=O)([O-])C=1C=NC(=NC1)NC1=CC=CC=C1 | C10H8N4O2
